US06187805B1
a) 3-[1-(Benzenesulphonyl)-1H-indol-4-yl]acrylic acid ethyl ester
A solution of 1-(benzenesulphonyl)-1H-indole-4-carboxaldehyde (2.0 g, 7 mmol) and (carbethoxymethylene)triphenylphosphorane (2.69 g,7.7 mmol) in anhydrous dichloromethane (50 ml) was heated to reflux for 3 h under a nitrogen atmosphere. The reaction was concentrated and purified by dry flash chromatography (dichloromethane) to give the title compound as a colourless solid (2.49 g, 100%). δH (360 MHZ, CDCl3), 1.34 (3H, t, J=7.2 Hz), 4.27 (2H, q, J=7.2 Hz), 6.51 (1H, d, J=17.2 Hz), 6.94 (1H, d, J=0.72 Hz), 7.32 (1H, t, J=7.9 Hz), 7.43-7.67 (4H, m), 7.67 (1H, d, J=3.6 Hz), 7.68-7.89 (2H, m), 7.94-8.03 (2H, m).

reactant | 1-(benzenesulphonyl)-1H-indole-4-carboxaldehyde | 7 mmol, 2.0 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C(=CC=CC12)C=O | C15H11NO3S
reactant | (carbethoxymethylene)triphenylphosphorane | 7.7 mmol, 2.69 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-[1-(Benzenesulphonyl)-1H-indol-4-yl]acrylic acid ethyl ester | 2.49 g, 100% | C(C)OC(C=CC1=C2C=CN(C2=CC=C1)S(=O)(=O)C1=CC=CC=C1)=O | C19H17NO4S
